US05939359
Synthesis of N-(2,4-difluorophenyl)-2-(3-nitrophenylthio)-6-pyrazinecarboxamide (compound 1.003)
7 g (11 mmol) of a 50% strength solution of propanephosphonic anhydride in dichloromethane are added to a solution of 2.8 g (10 mmol) of 2-(3-nitrophenylthio)-6-pyrazinecarboxylic acid, 3.2 g (25 mmol) of 2,4-difluoroaniline and 3 g (30 mmol) of 4-methylmorpholine in dichloromethane at 0° C. The reaction mixture is heated to room temperature. After 12 hours, the solvent is istilled off under reduced pressure. The residue is taken up in diethyl ether and the solution is extracted with 10% strength, aqueous hydrochloric acid, washed with distilled water and with saturated, aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is purified by chromatography (silica gel, cyclohexane/ethyl acetate 4/1 (v/v)). Yield 1.6 g (40%); light yellow, crystalline solid, mp. 131-135° C.

reactant | 2-(3-nitrophenylthio)-6-pyrazinecarboxylic acid | 10 mmol, 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)SC1=NC(=CN=C1)C(=O)O | C11H7N3O4S
reactant | 2,4-difluoroaniline | 25 mmol, 3.2 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 4-methylmorpholine | 30 mmol, 3 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,4-difluorophenyl)-2-(3-nitrophenylthio)-6-pyrazinecarboxamide | FC1=C(C=CC(=C1)F)NC(=O)C1=CN=CC(=N1)SC1=CC(=CC=C1)[N+](=O)[O-] | C17H10F2N4O3S
